US08202871B2
(i) Ethyl (4-ethylpiperazin-1-yl)acetate
8.9 ml of ethylpiperazine are placed in 91.5 ml of toluene in a round-bottomed flask. A solution of 4.1 ml of ethyl bromoacetate in 11.6 ml of toluene is added dropwise. The mixture is refluxed at 110° C. for one hour, concentrated to a small volume and left in a refrigerator for 3 hours. A white precipitate forms, which is filtered off and washed with dichloromethane. The filtration liquors are evaporated; 7 g of expected product are obtained.

reactant | ethylpiperazine | 8.9 ml | C(C)N1CCNCC1 | C6H14N2
reactant | ethyl bromoacetate | 4.1 ml | BrCC(=O)OCC | C4H7BrO2
solvent | toluene | 91.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 11.6 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl (4-ethylpiperazin-1-yl)acetate | 7 g | C(C)N1CCN(CC1)CC(=O)OCC | C10H20N2O2
